### PR TITLE
add `diagonal` and some properties about `Vec`

### PR DESCRIPTION
**Pull request by damhiya**
I added some function and properties about `Vec`.
The `diagonal` function is a join for monad instance of `Vec` (that is compatible for zip applicative instance of `Vec`), so I added it to `Data.Vec.Categorical`
Though it seems correct monad instance, I couldn't proof that `diagonal` satisfies associative law for monad in agda yet.

### CODE REVIEW

File: src/Data/Vec/Base.agda [hunk 1]
```diff
@@ -167,6 +167,17 @@ fs ⊛* xs = fs >>= λ f → map f xs
...
 
+-- Diagonal
+
+diagonal : ∀ {n} → Vec (Vec A n) n → Vec A n
+diagonal [] = []
+diagonal (xs ∷ xss) = head xs ∷ diagonal (map tail xss)
+
+infixl 1 _>>=′_
+
+_>>=′_ : ∀ {n} → Vec A n → (A → Vec B n) → Vec B n
```
Comment (gallais) [inline src/Data/Vec/Base.agda:178]: Any reason not to call this `_>>=_` like we do in e.g. `Data.Maybe.Base`?

Comment (damhiya) [reply src/Data/Vec/Base.agda:178]: There is already function called `_>>=_` in `Data.Vec.Base` defined as cartesian product. i.e. similar to `_>>=_` for `List`.
This is actually not a monad for `Vec`. However, agda's do-notation works syntactically. So this naming might be pretty useful.
Since diagonal-based one is genuine definition of monad for `Vec`, I also think the old `_>>=_` definition should yield it's name to new one, but it will cause breaking change.

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -364,6 +364,10 @@ map-id : ∀ {n} → map {A = A} {n = n} id ≗ id
 map-id []       = refl
 map-id (x ∷ xs) = P.cong (x ∷_) (map-id xs)
 
+map-const : ∀ {n} (xs : Vec A n) (x : B) → map {n = n} (const x) xs ≡ replicate x
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:367]: Very minor comment, but could we rename the constant value from `x`, e.g. `v`. Makes it clearer that it's not an element of the list `xs`...

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -695,6 +713,19 @@ map-replicate :  ∀ (f : A → B) (x : A) n →
 map-replicate f x zero = refl
 map-replicate f x (suc n) = P.cong (f x ∷_) (map-replicate f x n)
 
+transpose-replicate : ∀ {m n} (xs : Vec A m) → transpose (replicate {n = n} xs) ≡ map replicate xs
+transpose-replicate {n = zero} _ = P.sym (map-const _ [])
+transpose-replicate {n = suc n} xs = begin
+  transpose (replicate xs)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:719]: I think best to lay this out in the usual style, even if it violates the line length (which is more of a convention anyway)

File: src/Data/Vec/Properties.agda [hunk 4]
```diff
@@ -389,6 +393,10 @@ map-[]≔ : ∀ {n} (f : A → B) (xs : Vec A n) (i : Fin n) {x : A} →
           map f (xs [ i ]≔ x) ≡ map f xs [ i ]≔ f x
 map-[]≔ f xs i = map-updateAt xs i refl
 
+map-⊛ : ∀ {n} (f : A → B → C) (g : A → B) (xs : Vec A n) → (map f xs ⊛ map g xs) ≡ map (f ˢ g) xs
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:396]: Maybe put the last term on the next line?

**Comment by MatthewDaggitt** [comment]
Any chance you could add a CHANGELOG entry as well @damhiya ?

File: src/Data/Vec/Base.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Vec/Base.agda:178]: Hmm, so if we have two different possible definitions for the bind operator, and both require to be named `_>>=_` to work with do-notation we appear to be in trouble. Do notation doesn't work with `_>>=′_` right? So maybe, both `_>>=_` and this should be called something else more meaningful and the user can decide?

 I'm really not sure, and would appreciate other people's thoughts...

> but that's a breaking change.
We're currently working on v2.0 which can have breaking changes, but we want to be sure we're making the _right_ breaking changes!

Comment (damhiya) [reply src/Data/Vec/Base.agda:178]: Maybe we can just define a sub module `Zip` and `Cartesian` so that each module has their own definition of `_>>=_`.

Comment (MatthewDaggitt) [reply src/Data/Vec/Base.agda:178]: That seems like an excellent suggestion :+1:

**Comment by damhiya** [comment]
I chose the name `Product` and `Diagonal` rather than `Cartesian` and `Zip`.
And totally removed definition of `Data.Vec.Base._>>=_` instead of deprecating it, since that will cause name collision if we open `Data.Vec.Base` publicly.

**Comment by damhiya** [comment]
I'm not sure whether it's good to use sub module here instead of making new file.

**Comment by MatthewDaggitt** [comment]
Thanks, we're definitely getting there! The only problem with naming the module `Product` is that it might conflict with `import Data.Product as Product` which is a relatively common idiom. Perhaps naming the module `ProductBind` and `DiagonalBind` might be both less likely to break code and improve readability?

**Comment by gallais** [comment]
I liked `Cartesian` and `Zip` :(

**Comment by damhiya** [comment]
> I liked `Cartesian` and `Zip` :(

Okay I'll back to `Cartesian`, but I think `Diagonal` is more appropriate than `Zip`. Coinciding Applicative instance for `Diagonal` is `Zip`, but the monad instance `Diaognal` is derived from `diagonal` operation.

**Comment by MatthewDaggitt** [comment]
Great, glad we've reached consensus! Merged in. Thanks again for the PR @damhiya

**Comment by damhiya** [comment]
@MatthewDaggitt
It seems the PR closed without merging. Is this intended?

**Comment by MatthewDaggitt** [comment]
Apologies, yes! Misclicked. Nice spot
